US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(2,4-dichlorophenoxy)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (150 mg, 0.495 mmol) and 2,4-dichlorophenol were reacted as starting materials at 150° C. for 15 hours and post-treatment was then conducted, whereby the title compound was obtained as a colorless crystalline powder (195.5 mg, 93.9%). Melting point: 152.2-152.8° C. (ethyl acetate-hexane).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.495 mmol, 150 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | 2,4-dichlorophenol | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
product | 3,4-bis(4-methoxyphenyl)-6-(2,4-dichlorophenoxy)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)OC1=C(C=C(C=C1)Cl)Cl | C24H18Cl2N2O3
